US08664220B2
Step 2: 1-(4′-{4-[5-(3-Fluoro-phenyl)-pyridin-3-ylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 3-bromo-5-(3-fluoro-phenyl)-pyridine.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 3-bromo-5-(3-fluoro-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=CC(=CC=C1)F | C11H7BrFN
product | 1-(4′-{4-[5-(3-Fluoro-phenyl)-pyridin-3-ylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1C=NC=C(C1)C1=CC(=CC=C1)F | C33H28FN3O3
